US07304081B2
Step 2: Synthesis of 1′-benzyl-3H-spiro[2-benzofuran-1,3′-pyrrolidine]
Diethyl azodicarboxylate (4.44 mL, 0.0282 mol) in 1 ml of THF was added to a mixture of 1-benzyl-3-[2-(hydroxymethyl)phenyl]pyrrolidin-3-ol (3.50 g, 0.0124 mol) and triphenylphosphine (7.40 g, 0.0282 mol) in tetrahydrofuran (50 mL, 0.6 mol) at room temperature. The mixture was stirred at room temperature overnight. The reaction solution was concentrated and the residue was flash chromatographed on silica gel column with 50% AcOEt in hexanes to give the desired compound (1.5 g, 46% yield). MS (ESI): 266.1 (M+H+).

reactant | Diethyl azodicarboxylate | 0.0282 mol, 4.44 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 1-benzyl-3-[2-(hydroxymethyl)phenyl]pyrrolidin-3-ol | 0.0124 mol, 3.50 g | C(C1=CC=CC=C1)N1CC(CC1)(O)C1=C(C=CC=C1)CO | C18H21NO2
reactant | triphenylphosphine | 0.0282 mol, 7.40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 0.6 mol, 50 mL | O1CCCC1 | C4H8O
product | 1′-benzyl-3H-spiro[2-benzofuran-1,3′-pyrrolidine] | 1.5 g, 46% yield | C(C1=CC=CC=C1)N1CC2(CC1)OCC1=C2C=CC=C1 | C18H19NO
